Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:1],6.49236487321
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7])[O:9][H:10].[H:8],4.774928035109999
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.52621026834
[C:1]#[C:2][C:3]([H:4])=[O:5].[O:6]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6],-1.42997842903
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.82037323302
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],1.15006082263
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],3.81059172007
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5],3.30833380515
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.5611195781000005
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],2.6118950406
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.00336492607
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1][O:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],2.6434860178
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.06722001568
[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.53613791874
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1]=[C:2],0.178892475631
[H:11].[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12][H:13]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13],-1.56540151431
[C:9][H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-7.270800488260001
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[O:2],0.8066634340809999
[C:1]([C:2]#[C:4][O:5][H:6])([H:8])[H:9].[C:3]#[C:7]>>[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9],-4.02108222649
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12],0.59217526909
[C:6]([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],-2.5224363067
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][H:10],2.11331840432
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.158892853809999
[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-6.09438492743
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-6.3477434776
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.9393743185300023
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.74487191764
[H:1][O:2][C:3](=[O:4])[C:7](=[C:5][H:6])[H:8]>>[H:1][O:2][C@@:3]12[O:4][C@@:5]1([H:6])[C:7]2[H:8],0.8756301867
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-2.63629535455
